US07893267B2
41 mg (0.08 mmol) of 1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide in 0.6 mL of DMF and 0.176 mL (1 mmol) of DIEA was treated with 0.024 mL (0.3 mmol) of methyl chloroformate and stirred at room temperature for 14 h. The reaction mixture was then treated with 0.15 mL of 2 N aq. LiOH. Water was added to the reaction mixture. The precipitated solid was collected by filtration and washed with water to yield 11.4 mg (0.0248 mmol, 31%) of 6-[4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-ylcarbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester. LCMS: 460 (M+1)+.

reactant | 1,2,3,4-tetrahydro-isoquinoline-6-carboxylic acid [4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 0.08 mmol, 41 mg | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(=O)C=2C=C1CCNCC1=CC2 | C21H19N7O2
reactant | DIEA | 1 mmol, 0.176 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methyl chloroformate | 0.3 mmol, 0.024 mL | ClC(=O)OC | C2H3ClO2
reactant | LiOH | 2 N, 0.15 mL | [Li+].[OH-]
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 6-[4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-ylcarbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid methyl ester | 0.0248 mmol, 11.4 mg, 31% | COC(=O)N1CC2=CC=C(C=C2CC1)C(NC1=NC2=C(N1)C=CC=C2C(NC=2NC=CN2)=O)=O | C23H21N7O4
